US04623652
(a) [1,1-Dimethyl-2-[(dimethylamino)sulfonylamino]ethyl]amine
A mixture of 30.7 g (0.35 mole) of 1,2-diamino-2-methylpropane, 150 ml of ether and 50 ml of triethylamine was cooled to 0° C. and 20 g (0.14 mole) of dimethylsulfamoylchloride was added slowly. The mixture was stirred for 30 min. and then concentrated under reduced pressure. The residue was mised with water, basified with potassium carbonate and concentrated to dryness. Acetone was added and insoluble material was removed by filtration. Concentration of the filtrate gave a solid, which crystallized from toluene to give 16.5 g (60%) of product, m.p. 77°-78° C. The IR and MNR spectra were consistent with the assigned structure.

reactant | 1,2-diamino-2-methylpropane | 0.35 mole, 30.7 g | NCC(C)(C)N | C4H12N2
reactant | ether | 150 ml | CCOCC | C4H10O
reactant | dimethylsulfamoylchloride | 0.14 mole, 20 g | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
solvent | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
product | [1,1-Dimethyl-2-[(dimethylamino)sulfonylamino]ethyl]amine | 16.5 g, 60% | CC(CNS(=O)(=O)N(C)C)(C)N | C6H17N3O2S
